US07368578B2
To a solution of 2-isopropyl-4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-oxazole (1.00 g) in methanol (12 mL) was added concentrated hydrochloric acid (0.52 mL) at room temperature, and the mixture was stirred at 50° C. for 1 hr. The reaction mixture was evaporated under reduced pressure, and the residue was washed with diethyl ether to give 4-[(E)-2-(2-isopropyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol hydrochloride (0.95 g, yield 92%) as orange crystals. melting point: 205-209° C.

reactant | 2-isopropyl-4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-oxazole | 1.00 g | C(C)(C)C=1OC=C(N1)\C=C\C=1C(=NN(C1)C1=CC=CC=C1)OCOC | C19H21N3O3
reactant | hydrochloric acid | 0.52 mL | Cl | ClH
solvent | methanol | 12 mL | CO | CH4O
product | 4-[(E)-2-(2-isopropyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol hydrochloride | 0.95 g, yield 92% | Cl.C(C)(C)C=1OC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)O | InChI=1S/C17H17N3O2.ClH/c1-12(2)17-18-14(11-22-17)9-8-13-10-20(19-16(13)21)15-6-4-3-5-7-15;/h3-12H,1-2H3,(H,19,21);1H/b9-8+;
